US05510345
Preparation of 4-chloro-6-(1-piperazinyl)-2-pyrrolidinopyrimidine
A solution of 2.0 g (9.17 mmoles) of 4,6-dichloro-2-pyrrolidinopyrimidine and 3.95 g (45.9 mmoles) of piperazine in ethanol is boiled under reflux for 1 hour and then evaporated. The evaporation residue is distributed between 100 ml of chloroform and 100 ml of 1% sodium hydroxide solution. After separation the organic phase is twice washed with 50 ml of water each, then dried and evaporated. After recrystallizing the residue from hexane, the title product is obtained in a yield of 2.25 g (91.6%), m.p. 89°-100° C.

reactant | 4,6-dichloro-2-pyrrolidinopyrimidine | 9.17 mmoles, 2.0 g | ClC1=NC(=NC(=C1)Cl)N1CCCC1 | C8H9Cl2N3
reactant | piperazine | 45.9 mmoles, 3.95 g | N1CCNCC1 | C4H10N2
solvent | ethanol | C(C)O | C2H6O
product | 4-chloro-6-(1-piperazinyl)-2-pyrrolidinopyrimidine | ClC1=NC(=NC(=C1)N1CCNCC1)N1CCCC1 | C12H18ClN5
